US09340513B2
To a solution of 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((R)-1-(4-chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate (2.5 g, 3.05 mmol) in Dichloromethane (20 mL) was added TFA (13 mL, 3.05 mmol). The reaction mixture was stirred at r.t. for 2 hs and evaporated in vacuo to afford crude product, which was diluted with DCM, washed with water, saturated NaHCO3 twice, water, 2 M HCl, water, and the organic layer was concentrated, diluted with MeOH/H2O (1:5, 36 mL) and freeze-dried under high vacuo to give the product 4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((R)-1-(4-chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid (1.7 g, 2.217 mmol, 72.6%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) d=12.34-12.04 (m, 1H), 8.43 (d, J=7.8 Hz, 1H), 7.53-7.18 (m, 4H), 6.63 (d, J=15.8 Hz, 1H), 5.92 (d, J=15.8 Hz, 1H), 4.94 (quin, J=7.0 Hz, 1H), 4.39 (dd, J=4.6, 10.9 Hz, 1H), 3.18 (dt, J=6.7, 13.7 Hz, 1H), 2.70 (dd, J=4.3, 10.5 Hz, 2H), 2.58-2.52 (m, 1H), 2.34-1.99 (m, 3H), 1.99-0.56 (m, 48H); LC/MS: m/z calculated 761.4. Found 762.3 (M+1)+.

reactant | 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((R)-1-(4-chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate | 3.05 mmol, 2.5 g | CC(C(=O)OC(C)(C)C)(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)\C=C\C(=O)N[C@H](C)C5=CC=C(C=C5)Cl)C)C)(C)C)C | C50H72ClNO6
reactant | TFA | 3.05 mmol, 13 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | Dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((R)-1-(4-chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid | 2.217 mmol, 1.7 g, 72.6% | ClC1=CC=C(C=C1)[C@@H](C)NC(/C=C/[C@]12C([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)OC(CC(C(=O)O)(C)C)=O)C)=C(C(C2)=O)C(C)C)=O | C46H64ClNO6
